US06281363B1
A solution of 1.54 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-[N-(9-fluorenylmethyloxycarbonyl)-glycinyl]-4-methylvalerohydrazide in 20 ml of dichloromethane was treated with 1.0 ml of piperidine. The mixture was stirred for 1.5 hours at room temperature and evaporated. The residue was purified by flash column chromatography on silica gel using methanol/dichloromethane (1:9) for the elution to give 0.83 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-glycinyl-4-methylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-[N-(9-fluorenylmethyloxycarbonyl)-glycinyl]-4-methylvalerohydrazide | 1.54 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNC(CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)CC(C)C | C38H45N3O6
reactant | piperidine | 1.0 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2′-glycinyl-4-methylvalerohydrazide | 0.83 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNC(CN)=O)CC(C)C | C23H35N3O4
